US07417047B2
Step f) 4-[2-Amino-4-(4-fluoro-3-pyrimidin-5-yl-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-(2-fluoro-ethyl)-1H-pyrrole-2-carboxylic acid methyl ester
In a pressure tube was put 2 mL of MeOH and 2 mL of toluene. The solution was degassed with argon and 7.5 mg (0.008 mmol) of Pd2(dba)3 and 8.6 mg of triphenylphosphine was added under an argon atmosphere. After 15 min stirring at room temperature, 47.0 mg (0.38 mmol) of 5-pyrimidyl-boronic acid, 83 mg (0.78 mmol) of Na2CO3, and 125 mg (0.27 mmol) of 4-[2-Amino-4-(3-bromo-4-fluoro-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-(2-fluoro-ethyl)-1H-pyrrole-2-carboxylic acid methyl ester was added and the reaction sealed heated to 110° C. for 18 h. The reaction mixture was cooled, diluted with 100 mL of CHCl3, filtered through celite and the solvent removed at reduced pressure. Chromatography on silica gel using a gradient of EtOAc to 2%-8% MeOH-EtOAc yielded 0.08 gm (64% yield) of a white solid (mp 88-90° C.). 1H NMR (500 MHz, CDCl3) δ: 3.15 (s, 3H), 3.73 (s, 3H), 4.50 (m, 1H), 4.58 (m, 2H), 4.68 (m, 1H), 6.96 (s, 2H), 7.16 (t, 1H, J=8.66 Hz), 7.65 (m, 2H), 8.88 (m, 2H), 9.15 (s, 1H). MS (ESI) m/z 455.1 ([M+H])+; MS (ESI) m/z 453.1 ([M−H])−.

reactant | triphenylphosphine | 8.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-pyrimidyl-boronic acid | 0.38 mmol, 47.0 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | Na2CO3 | 0.78 mmol, 83 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-[2-Amino-4-(3-bromo-4-fluoro-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-(2-fluoro-ethyl)-1H-pyrrole-2-carboxylic acid methyl ester | 0.27 mmol, 125 mg | COC(=O)C=1N(C=C(C1)C1(N=C(N(C1=O)C)N)C1=CC(=C(C=C1)F)Br)CCF | C18H17BrF2N4O3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd2(dba)3 | 0.008 mmol, 7.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | MeOH EtOAc | CO.CCOC(=O)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 2 mL | CO | CH4O
product | 4-[2-Amino-4-(4-fluoro-3-pyrimidin-5-yl-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-(2-fluoro-ethyl)-1H-pyrrole-2-carboxylic acid methyl ester | 0.08 gm, 64% yield | COC(=O)C=1N(C=C(C1)C1(N=C(N(C1=O)C)N)C1=CC(=C(C=C1)F)C=1C=NC=NC1)CCF | C22H20F2N6O3
